US06225311B1
A solution of 1.50 g (3.632 mmol) of methyl (3S)A({[4-(2-butynyloxy)-phenyl]sulfonyl)2,2-dimethyl-thiomorpholine-3-carboxylate-1-oxide in 20 mL of acetic anhydride was heated to reflux for 4h and then concentrated in vacuo. The residue was chromatographed on silica gel eluting with ethyl acetate/hexanes (1:10 ) to provide 0.985 g of methyl(3S)-4-{[4-(2-butynyloxy)phenyl]sulfonyl)-2,2-dimethyl-3,4-dihydro-2H-1,4-thiazine-3-carboxylate as a colorless oil. Electrospray Mass Spec 396.1 (M+H)+.

reactant | {[4-(2-butynyloxy)-phenyl]sulfonyl)2,2-dimethyl-thiomorpholine-3-carboxylate-1-oxide | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N1C(C(S(CC1)=O)(C)C)C(=O)[O-]
reactant | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
product | methyl(3S)-4-{[4-(2-butynyloxy)phenyl]sulfonyl)-2,2-dimethyl-3,4-dihydro-2H-1,4-thiazine-3-carboxylate | 0.985 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N1[C@H](C(SC=C1)(C)C)C(=O)OC | C18H21NO5S2
